US04159343
(5Z,13E)-(8R,9S,11R,12R,15S)-1-(N-Methylcarbamoyloxy)-5,13-prostadiene-9,11,15-triol
At 50°, 250 mg. of (5Z,13E)-(8R,9S,11R,12R,15S)-1-(N-methylcarbamoyloxy)-11,15-bis(tetrahydropyran-2-yloxy)-9-tribenzylsilyloxy-5,13-prostadiene was stirred for 5 hours in 15 ml. of a mixture of glacial acetic acid/water/tetrahydrofuran (65/35/10). The mixture was evaporated under vacuum and the residue purified by chromatography on silica gel with ether/dioxane (7+3), thus obtaining 105 mg. of the title compound as a colorless oil.

reactant | (5Z,13E)-(8R,9S,11R,12R,15S)-1-(N-methylcarbamoyloxy)-11,15-bis(tetrahydropyran-2-yloxy)-9-tribenzylsilyloxy-5,13-prostadiene | CNC(=O)OCCCC\C=C/C[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](CCCCC)OC1OCCCC1)OC1OCCCC1)O[Si](CC1=CC=CC=C1)(CC1=CC=CC=C1)CC1=CC=CC=C1 | C53H75NO7Si
solvent | acetic acid water tetrahydrofuran | C(C)(=O)O.O.O1CCCC1
product | (5Z,13E)-(8R,9S,11R,12R,15S)-1-(N-Methylcarbamoyloxy)-5,13-prostadiene-9,11,15-triol | CNC(=O)OCCCC\C=C/C[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](CCCCC)O)O)O | C22H39NO5
